US07666834B2
1-(4-Methyl-2-nitro-phenyl)-1H-imidazole (160)
4-fluoro-3-nitro-toluene (346 mg, 2.2 mmol) and imidazole (299 mg, 4.4 mmol) was dissolved in DMF (5 mL) and the reaction heated to 90° C. for 16 h. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and 1 M HCl (aq). The aqueous layer was separated and basified with NaOH (s) and extracted with DCM. The DCM was concentrated in vacuo and the residue purified by flash chromatography (Silica, EtOAc:Heptane) to afford the title compound (337 mg, 75%). LC/MS: (00-60% B in A): tR=1.69 min, >90%, m/z (ESI)=204 (MH+).

reactant | 4-fluoro-3-nitro-toluene | 2.2 mmol, 346 mg | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | imidazole | 4.4 mmol, 299 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(4-Methyl-2-nitro-phenyl)-1H-imidazole | 337 mg, 75% | CC1=CC(=C(C=C1)N1C=NC=C1)[N+](=O)[O-] | C10H9N3O2
